US06586592B2
Step 1: Preparation of 4-fluoro-2-nitro-1-(phenylsulfanyl) Benzene
To a mixture of thiophenol (0.96 mL, 9.3 mmol) and potassium carbonate (1.4 g, 10.1 mmol) in 16 mL of dry acetonitrile is added 2,5-difluoronitrobenzene (1.0 mL, 9.2 mmol). The mixture is allowed to stir overnight at rt. Water (30 mL) and CH2Cl2 are added and the layers seperated. The aqueous layer is extracted with CH2Cl2 (3×25 mL). The combined organics are dried over MgSO4, filtered, and concentrated. Recrystallization from EtOAc/heptane gives 2.3 g (99%) of the title compound as a solid, mp 66 67° C.

reactant | thiophenol | 9.3 mmol, 0.96 mL | C1(=CC=CC=C1)S | C6H6S
reactant | potassium carbonate | 10.1 mmol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,5-difluoronitrobenzene | 9.2 mmol, 1.0 mL | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | Water | 30 mL | O | H2O
solvent | acetonitrile | 16 mL | C(C)#N | C2H3N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-fluoro-2-nitro-1-(phenylsulfanyl) Benzene | 2.3 g, 99% | FC1=CC(=C(C=C1)SC1=CC=CC=C1)[N+](=O)[O-] | C12H8FNO2S
